US07687491B2
(10h) 1-[(4-Ethyl-5-{5-[4-(2-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylic acid 1/2 oxalate
The title compound (77 mg) was synthesized in a yield of 39% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 1 (1g) using methyl 1-[(4-ethyl-5-{5-[4-(2-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate (0.19 g, 0.38 mmol) that was obtained in Example 10 (10g), lithium hydroxide monohydrate (36 mg, 0.85 mmol), acetic acid (46 μL, 0.85 mmol), and oxalic acid (17 mg, 0.19 mmol).

reactant | methyl 1-[(4-ethyl-5-{5-[4-(2-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate | 0.38 mmol, 0.19 g | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=C(C=CC=C1)F)CN1CC(C1)C(=O)OC | C26H24FN3O4S
reactant | lithium hydroxide monohydrate | 0.85 mmol, 36 mg | O.[OH-].[Li+]
reactant | acetic acid | 0.85 mmol, 46 μL | C(C)(=O)O | C2H4O2
reactant | oxalic acid | 0.19 mmol, 17 mg | C(C(=O)O)(=O)O | C2H2O4
product | 1-[(4-Ethyl-5-{5-[4-(2-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylic acid | 77 mg, yield of 39% | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=C(C=CC=C1)F)CN1CC(C1)C(=O)O | C25H22FN3O4S
